### ISSUE TITLE
Proof obligation for `I` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#20]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L83)

**Code Snippet:**
```lean
theorem IsCoupling.pure_iff {α β : Type u} {a : α} {b : β} {c : SPMF (α × β)} :
    IsCoupling c (pure a) (pure b) ↔ c = pure (a, b) := by
  constructor
  · intro ⟨h1, h2⟩
    simp [pure_eq_pmf_pure, liftM, monadLift, OptionT.instMonadLift, OptionT.lift, OptionT.mk] at h1 h2
    have : (x : Option α) → (Prod.fst <$> c) x = (some <$> PMF.pure a) x := by
      rw [h1]; intro x; congr
    sorry
```
